US05668145
A. 2-Benzyl-4H-isoquinoline-1,3-dione
A mixture consisting of homophthalic acid (25 g, 0.139 mol) and benzylamine (15.2 ml, 14.91 g, 0.139 mol) was heated at 165°-180° C. for two hours, producing a vigorous release of water vapor. Cooling afforded a hard green solid which was pulverized, triturated with diethyl ether, and isolated by filtration to afford the title compound as a light-green granular solid (29.4 g) used in the next step without further purification.

reactant | homophthalic acid | 0.139 mol, 25 g | C(CC=1C(C(=O)O)=CC=CC1)(=O)O | C9H8O4
reactant | benzylamine | 0.139 mol, 15.2 ml, 14.91 g | C(C1=CC=CC=C1)N | C7H9N
solvent | water | O | H2O
product | 2-Benzyl-4H-isoquinoline-1,3-dione | C(C1=CC=CC=C1)N1C(C2=CC=CC=C2CC1=O)=O | C16H13NO2
